US05688946
10.4 ml (2.08 mmol) of a 0.2N methanolic iodine solution and 2.4 ml (0.48 mmol) of 0.2N sodium hydroxide solution are simultaneously added dropwise at 0° while stirring to a mixture of 630 mg (1 mmol) of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide and 20 ml (4 mmol) of 0.2N sodium hydroxide solution in 20 ml of methanol. The colourless reaction mixture is stirred at 0° for 5 minutes and thereafter at room temperature for 2.5 hours. Subsequently, the mixture is diluted with 25 ml of water and extracted twice with 80 ml of ethyl acetate each time. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. For purification, the residue (750 mg) is chromatographed using a 15:1 mixture of methylene chloride and methanol as the eluent. There are obtained 504 mg of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-5-iodoimidazole-4-propionamide, MS: 757 (M+H)+, and 38 mg of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-2,5-iodoimidazole-4-propionamide, MS: 883 (M+H)+, each as a colourless solid.

reactant | iodine | 0.2N | II | I2
reactant | sodium hydroxide | 0.48 mmol, 0.2N, 2.4 ml | [OH-].[Na+]
reactant | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide | 1 mmol, 630 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H50N4O6S
reactant | sodium hydroxide | 4 mmol, 0.2N, 20 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-5-iodoimidazole-4-propionamide | 504 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1I)CC1=CC=CC=C1 | C33H49IN4O6S
